US09023848B2
Step 1: Ethyl 2-methyl-6-nitro-4-phenylquinoline-3-carboxylate:
A mixture of 2-amino-5-nitrobenzophenone (1 g, 4.1 mmol), H2NSO3H (40 mg) and tert-butyl acetoacetate (1.3 ml, 10.3 mmol) was stirred for 12 h at 120° C. under N2. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate and washed with water. The organic layer was dried (MgSO4) and concentrated in vacuo to give a solid, which was recrystallised from EtOH to give a pale orange solid (1.05 g, 76%). 1H NMR (300 MHz, CDCl3) δ 8.41-8.5(m, 2H, 8.15 (d, J=9 Hz, 1H), 7.52-7.55(m, 3H), 7.3-7.4 (m, 2H), 2.82(s, 3H), 1.24(s, 9H).

reactant | 2-amino-5-nitrobenzophenone | 4.1 mmol, 1 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-] | C13H10N2O3
reactant | H2NSO3H | 40 mg | NS(=O)(=O)O | H3NO3S
reactant | tert-butyl acetoacetate | 10.3 mmol, 1.3 ml | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-methyl-6-nitro-4-phenylquinoline-3-carboxylate | 1.05 g, 76% | CC1=NC2=CC=C(C=C2C(=C1C(=O)OCC)C1=CC=CC=C1)[N+](=O)[O-] | C19H16N2O4
